US04581168
8. Boc-Ile-Phe-Thr-Asn-Ser-NH-NH2
A solution of 5 g of Boc-Ile-Phe-Thr-Asn-Ser-OMe (7.2 mM) in 40 ml of DMF and 200 ml of methanol cooled on an ice bath has 3.6 ml of an 80% solution of hydrazine hydrate added thereto. After 21 hours of reaction at ambient temperature, 0.9 ml of the same solution of hydrazine hydrate are added. After 3 more hours, the gel obtained is filtered, washed with methanol and dried in vacuo. 3.94 g of product are obtained.

reactant | Boc-Ile-Phe-Thr-Asn-Ser-OMe | 7.2 mM, 5 g | N([C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H]([C@H](O)C)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CO)C(=O)OC)C(=O)OC(C)(C)C | C32H50N6O11
reactant | hydrazine hydrate | O.NN
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | methanol | 200 ml | CO | CH4O
product | Boc-Ile-Phe-Thr-Asn-Ser-NH-NH2 | 3.94 g, Yield: 78.8% | N([C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H]([C@H](O)C)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CO)C(=O)NN)C(=O)OC(C)(C)C | C31H50N8O10
